US04925879
Titanium (IV) chloride (3.9 ml) was added dropwise to stirred dry 1,2-dimethoxyethane (68 ml) cooled to 0° C. under nitrogen. The temperature was maintained at 0° C. and powdered sodium borohydride (2.7 g) was added. A solution of 1-[1-(4-chlorophenyl)cyclobutyl]-3-ethyl-3-hydroxypentan-1-one oxime (5.2 g) in dry 1,2-dimethoxyethane (17 ml) was then added dropwise under nitrogen and the mixture stirred for 30 minutes at 0° C. and then at ambient temperature for 14 hours. After cooling the mixture to 0° C., water (170 ml) was added dropwise and the mixture basified with aqueous ammonia solution (S. G. 0.880) with cooling. The resulting solution was extracted with ether and the extracts washed with brine and dried. Removal of the solvents by evaporation in vacuo gave an oil which was distilled (b.p 150/0.05 mm) to give 1-[1-(4-chlorophenyl)cyclobutyl]-3-ethyl-1-iminopentan-3-ol.

reactant | sodium borohydride | 2.7 g | [BH4-].[Na+]
reactant | 1-[1-(4-chlorophenyl)cyclobutyl]-3-ethyl-3-hydroxypentan-1-one oxime | 5.2 g | ClC1=CC=C(C=C1)C1(CCC1)C(CC(CC)(O)CC)=NO | C17H24ClNO2
reactant | water | 170 ml | O | H2O
reactant | ammonia | N | H3N
solvent | 1,2-dimethoxyethane | 17 ml | COCCOC | C4H10O2
catalyst | Titanium (IV) chloride | 3.9 ml | [Ti](Cl)(Cl)(Cl)Cl
solvent | 1,2-dimethoxyethane | 68 ml | COCCOC | C4H10O2
product | 1-[1-(4-chlorophenyl)cyclobutyl]-3-ethyl-1-iminopentan-3-ol | ClC1=CC=C(C=C1)C1(CCC1)C(CC(CC)(O)CC)=N | C17H24ClNO
